US08106045B2
A mixture of (2S)-2-(4-bromophenyl)oxirane (55.0 g) and (R)-1-phenylethylamine (98.2g, 810 mmol) was heated at 80° C. for 6 hours. Addition of isopropyl ether (200 ml) to the residue after distillation of excess phenethylamine and successive filtration yielded (1S)-1-(4-bromophenyl)-2-((1R)-1-phenylethylamino)ethanol (57.0 g) as white crystals. Further crystallization was performed by the concentration of the filtrate in vacuo and cooling the residue in refrigerator. Filtration of the crystal with isopropyl ether (30 ml) yielded additional title compound (5.60 g) as crystals (72.4% yield, 3 steps).

reactant | (2S)-2-(4-bromophenyl)oxirane | 55.0 g | BrC1=CC=C(C=C1)[C@@H]1OC1 | C8H7BrO
reactant | (R)-1-phenylethylamine | 810 mmol, 98.2g | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
solvent | isopropyl ether | 200 ml | C(C)(C)OC(C)C | C6H14O
product | (1S)-1-(4-bromophenyl)-2-((1R)-1-phenylethylamino)ethanol | 57.0 g | BrC1=CC=C(C=C1)[C@@H](CN[C@H](C)C1=CC=CC=C1)O | C16H18BrNO
